US05489598
A mixture of 4.5 g (29.8 mmol) of 4-aminobenzoic acid hydrazide and 2.6 mL of ethylthioisocyanate in 15 mL of acetonitrile was heated at reflux for 3 hours. The solution was cooled to 24° C., and the precipitate was collected by filtration and dried under vacuum to afford 7.0 g of 1-(4-aminobenzoyl)-4-ethylthiosemicarbazide, mp 113°-115° C.

reactant | 4-aminobenzoic acid hydrazide | 29.8 mmol, 4.5 g | NC1=CC=C(C(=O)NN)C=C1 | C7H9N3O
reactant | ethylthioisocyanate | 2.6 mL | C(C)SN=C=O | C3H5NOS
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 1-(4-aminobenzoyl)-4-ethylthiosemicarbazide | 7.0 g | NC1=CC=C(C(=O)NNC(=S)NCC)C=C1 | C10H14N4OS
